US07745641B2
4-Chloro-5-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (70.0 mg, 0.141 mmol) was suspended in acetonitrile (3.5 mL), and the suspension was added with cesium carbonate (91.9 mg, 0.282 mmol) and 3-pyridylmethyl chloride hydrochloride (23.1 mg, 0.141 mmol), followed by stirring at 50° C. for 12 hours under nitrogen atmosphere. The reaction mixture was added with water. The obtained solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 4-chloro-5-(3-pyridylmethoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (49.7 mg, yield 60%).

reactant | 4-Chloro-5-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.141 mmol, 70.0 mg | ClC1=C2CNC(C2=C(C=C1O)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H30ClN3O4
reactant | cesium carbonate | 0.282 mmol, 91.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-pyridylmethyl chloride hydrochloride | 0.141 mmol, 23.1 mg | Cl.N1=CC(=CC=C1)CCl
reactant | water | O | H2O
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 4-chloro-5-(3-pyridylmethoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 49.7 mg, yield 60% | ClC1=C2CNC(C2=C(C=C1OCC=1C=NC=CC1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H35ClN4O4
